US04102913
In the presence of alkaline catalysts, acrylonitrile reacts with aldehydes, the α-carbon atoms of which possess one or two hydrogen atoms, forming 3-substituted propionitriles (U.S. Pat. No. 2,353,687). This so-called "cyanoethylation" reaction also occurs with other compounds which have an active hydrogen atom. For example, 2-ethyl butyraldehyde and acrylonitrile react in the presence of catalytic amounts of 50 percent caustic potash solution forming 2-(β-cyanoethyl)-2-ethyl butyraldehyde. A yield of 76.6 percent results after a reaction period of 4.5 hours. (H. A. Bruson, Th. W. Riener, J. Am. Chem. Soc., 66, 57 [1944]). The reaction is strongly exothermal. Acetaldehyde reacts with acrylonitrile in the presence of a 50 percent caustic soda solution forming γ-formylpimelonitrile. For a yield of 40-50%, the reaction period amounts to 2-3 hours. Under the same conditions, propionaldehyde forms 4.9 percent 2-methyl-4-cyanobutyraldehyde (U.S. Pat. No. 2,409,086). 2,2-dimethyl-4-cyano-butyraldehyde is formed in up to 60 percent yield from the reaction between isobutyraldehyde and acrylonitrile.

reactant | Acetaldehyde | C(C)=O | C2H4O
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | caustic soda | [OH-].[Na+]
product | γ-formylpimelonitrile | yield of 40-50% | C(=O)C(CCC#N)CCC#N | C8H10N2O
